US05387353
Example 12: Bis[4-(diphenylphosphinyloxy)phenyl] Sulfone
An oven-dried 100 mL 3-necked flask equipped with a magnetic stirring bar, a reflux condenser carrying a CaCl2 -Drierite drying tube, and a heating mantle, was charged with 4,4'-sulfonyldiphenol (3.9 g, 15.6 mmol), 4-dimethylaminopyridine (0.39 g, 3.2 mmol), and anhydrous pyridine (35 mL), and the stirred solution was treated slowly with diphenylphosphinyl chloride (6.5 mL, 34.1 mmol) via syringe. The resulting mixture was heated at reflux for 7 hours, then was allowed to stand at room temperature for 16 hours. The reaction was monitored periodically by HPLC. After completion of the reaction, the mixture was partitioned between water (100 mL) and CH2Cl2 -Et2O (1:3; 400 mL), and the organic phase was washed successively with 50 mL portions of 5 percent NaOH, water, 5 percent HCl, water and brine, then it was dried (MgSO4), filtered and concentrated leaving a white solid residue. Recrystallization from ethyl acetate-THF (9:1) afforded 9.5 g (94 percent yield) of the title compound as a white fluffy solid, m.p. 210-211° C. which had a PDSC (O2) onset/extrap (° C.) of 376/397.

reactant | 4,4'-sulfonyldiphenol | 15.6 mmol, 3.9 g | S(=O)(=O)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C12H10O4S
reactant | diphenylphosphinyl chloride | 34.1 mmol, 6.5 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
catalyst | 4-dimethylaminopyridine | 3.2 mmol, 0.39 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
product | Bis[4-(diphenylphosphinyloxy)phenyl] Sulfone | 9.5 g, 94 percent yield | C1(=CC=CC=C1)P(=O)(OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)OP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28O6P2S
